US05464781
6-Ethoxy-2,7-dimethyl-1,8-naphthyridin-4-ol (2.77 g) was added to phosphorus oxychloride (25 ml) at ambient temperature. The mixture was then heated at 95° C. for 1 hour. The mixture was worked up as described in example B1 to give 5-chloro-3-ethoxy-2,7-dimethyl-1,8-naphthyridine, m.p. 144°-7° C.

reactant | 6-Ethoxy-2,7-dimethyl-1,8-naphthyridin-4-ol | 2.77 g | C(C)OC=1C=C2C(=CC(=NC2=NC1C)C)O | C12H14N2O2
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-3-ethoxy-2,7-dimethyl-1,8-naphthyridine | ClC1=C2C=C(C(=NC2=NC(=C1)C)C)OCC | C12H13ClN2O
